US05084445
5'-O-Acetvl-3'-azido-3'-deoxythymidine (2)
To a pyridine (50 ml) solution of 3'-azido-3'-deoxythymidine (5.0 g, 18.7 mmole) 1 was added acetic anhydride dropwise in an ice-water bath. The mixture was allowed to stand overnight in the refrigerator. The solution was then poured into CHCl3 (20 ml), washed with H2O (200 ml×2), with a saturated solution of sodium bicarbonate and then H2O (200 ml×2). The organic layer was then dried (MgSO4). After removing the solvent, a syrup (6.5 g) was obtained.

reactant | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
reactant | 3'-azido-3'-deoxythymidine | 18.7 mmole, 5.0 g | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C10H13N5O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5'-O-Acetvl-3'-azido-3'-deoxythymidine | 6.5 g | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)N=[N+]=[N-] | C12H15N5O5
